US07696193B2
Disodium 6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2,3-pyridinedicarboxylate (E232)
Sodium hydroxide (0.66 g) in water (3 ml) was added to a solution of dimethyl 6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2,3-pyridinedicarboxylate (E231) (1.69 g, 4.12 mmol) in ethanol (20 ml) at room temperature. The mixture was vigorously stirred at room temperature for 4 h and the resulting precipitate filtered off to give the title compound as a colourless solid (E232); MS (ES+) m/e 383 [M+H]+.

reactant | Sodium hydroxide | 0.66 g | [OH-].[Na+]
reactant | dimethyl 6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2,3-pyridinedicarboxylate | 4.12 mmol, 1.69 g | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C(=N2)C(=O)OC)C(=O)OC | C23H26N2O5
solvent | water | 3 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Disodium 6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2,3-pyridinedicarboxylate | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C(=N2)C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C21H22N2O5.2Na/c24-20(25)17-6-7-18(22-19(17)21(26)27)28-16-5-4-13-8-10-23(15-2-1-3-15)11-9-14(13)12-16;;/h4-7,12,15H,1-3,8-11H2,(H,24,25)(H,26,27);;/q;2*+1/p-2
